US06599902B2
Synthesis of 3-{5-[5-(2,6-Dichloro-phenylmethanesulfonyl)-2-oxo-1,2-dihydro-indol-(3Z)-ylidenemethyl]-2,4-dimethyl-1H-pyrrol-3-yl}-propionic acid
A mixture of 5-(2,6-dichloro-phenylmethanesulfonyl)-1,3-dihydro-indol-2-one(1 g, 2.82 mmol), 3-(5-formyl-2,4-dimethyl-1H-pyrrol-3-yl)-propionic acid (548 mg, 1 eq.) and piperidine (0.416 mL, 1.5 eq.) in ethanol (5 mL) was stirred at rt for 5 days. The reaction was concentrated, acidified with 2M HCl (pH 3), stirred for 15 mins, diluted with water and filtered. The solid was washed with water and triturated with ethanol to give the titled compound as a pale orange solid.

reactant | 5-(2,6-dichloro-phenylmethanesulfonyl)-1,3-dihydro-indol-2-one | 2.82 mmol, 1 g | ClC1=C(C(=CC=C1)Cl)CS(=O)(=O)C=1C=C2CC(NC2=CC1)=O | C15H11Cl2NO3S
reactant | 3-(5-formyl-2,4-dimethyl-1H-pyrrol-3-yl)-propionic acid | 548 mg, 1 eq. | C(=O)C1=C(C(=C(N1)C)CCC(=O)O)C | C10H13NO3
reactant | piperidine | 0.416 mL, 1.5 eq. | N1CCCCC1 | C5H11N
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | 3-{5-[5-(2,6-Dichloro-phenylmethanesulfonyl)-2-oxo-1,2-dihydro-indol-(3Z)-ylidenemethyl]-2,4-dimethyl-1H-pyrrol-3-yl}-propionic acid | ClC1=C(C(=CC=C1)Cl)CS(=O)(=O)C=1C=C2/C(/C(NC2=CC1)=O)=C/C1=C(C(=C(N1)C)CCC(=O)O)C | C25H22Cl2N2O5S
